US06635652B1
3-Benzyl-3-(4-fluorobenzyl)imidazo[1,2-a]pyridin-2(3H)-one (Compound 39)
630 mg (6.7 mmol) of 2-aminopyridine and 1.72 g (6.7 mmol) of ethyl 2-bromo-3-phenylpropionate were refluxed under heating in 50 ml of ether for 12 hours. The reaction mixture was allowed to cool to room temperature and ether was removed by decantation. The residue was added with and dissolved in 30 ml of absolute ethanol, which was added to a solution of 150 mg (6.5 mmol) of sodium in 10 ml of absolute ethanol and stirred at room temperature for one hour. Then, 0.8 ml (6.5 mmol) of 4-fluorobenzylbromide was added and stirred for overnight. The reaction mixture was added to ice water and extracted with methylene chloride. Then, the solvent was removed under reduced pressure and the residue was purified with silica gel column chromatography, thus obtaining 22 mg (yield: 1%) of the titled compound.

reactant | 2-aminopyridine | 6.7 mmol, 630 mg | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl 2-bromo-3-phenylpropionate | 6.7 mmol, 1.72 g | BrC(C(=O)OCC)CC1=CC=CC=C1 | C11H13BrO2
reactant | sodium | 6.5 mmol, 150 mg | [Na] | Na
reactant | 4-fluorobenzylbromide | 6.5 mmol, 0.8 ml | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Benzyl-3-(4-fluorobenzyl)imidazo[1,2-a]pyridin-2(3H)-one | 22 mg, yield: 1% | C(C1=CC=CC=C1)C1(C(N=C2N1C=CC=C2)=O)CC2=CC=C(C=C2)F | C21H17FN2O
